US07148226B2
4-bromo-2-ethyl-1-fluorobenzene
Ethyl iodide (0.14 ml, 1.8 mmol) was added to a solution of (5-bromo-2-fluorophenyl)(iodo)zinc (0.5M in tetrahydrofuran) (5.4 ml, 2.7 mmol) in HMPA (10 ml). The reaction mixture was heated to 100° C. for 48 hrs. After which time the reaction mixture was cooled to room temperature and partitioned between ethyl acetate (100 ml) and water (100 ml). The organic layer was separated and dried over anhydrous sodium sulfate, filtered and the solvent was removed in vacuo. The crude oil was purified by column chromatography on silica gel eluting with 80:20 hexanes:ethyl acetate, to afford the title compound as a yellow oil (0.4 g).

reactant | Ethyl iodide | 1.8 mmol, 0.14 ml | C(C)I | C2H5I
reactant | (5-bromo-2-fluorophenyl)(iodo)zinc | 2.7 mmol, 0.5M, 5.4 ml | BrC=1C=CC(=C(C1)[Zn]I)F
solvent | HMPA | 10 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 4-bromo-2-ethyl-1-fluorobenzene | 0.4 g | BrC1=CC(=C(C=C1)F)CC | C8H8BrF
